US04978665
4-chloro-5-(3-n-butoxy-4-methoxybenzylamino)-6-ethoxy-3(2H)pyridazinone (Compound No. 68)
A mixture comprising 7.32 g of 4,5-dichIoro-6-ethoxy-3(2H)pyridazinone prepared in Reference Example 2, 21.95 g of 3-n-butoxy-4-methoxybenzylamine, 60 ml of 1,4-dioxane and 60 ml of water, was refluxed under stirring for 15 hours. Then, most 1,4-dioxane was distilled off under reduced pressure, and dilute hydrochloric acid was added for acidification. Then, chloroform was added thereto, and the mixture was vigorously shaked. The precipitated crystals were separated by filtration, and the chloroform layer of the filtrate was subjected to liquid separation and washed with water and dried over sodium sulfate. Then, the solvent was distilled off to obtain a light yellow oily substance. The product was crystallized from n-propanol-di-i-propyl ether (1:9 v/v), to obtain 10.48 g of the above identified compound having a melting point of from 117° to 118° C. as colorless crystals.

reactant | 4,5-dichIoro-6-ethoxy-3(2H)pyridazinone | 7.32 g | ClC=1C(NN=C(C1Cl)OCC)=O | C6H6Cl2N2O2
reactant | 3-n-butoxy-4-methoxybenzylamine | 21.95 g | C(CCC)OC=1C=C(CN)C=CC1OC | C12H19NO2
reactant | 1,4-dioxane | 60 ml | O1CCOCC1 | C4H8O2
solvent | water | 60 ml | O | H2O
product | 4-chloro-5-(3-n-butoxy-4-methoxybenzylamino)-6-ethoxy-3(2H)pyridazinone | ClC=1C(NN=C(C1NCC1=CC(=C(C=C1)OC)OCCCC)OCC)=O | C18H24ClN3O4
